US08729078B2
1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-(5-chloro-pyridin-2-ylamino)-1H-pyrazole-4-carbonitrile (111 mg, 0.204 mmol) and dihydrogen tris(dimethylphosphinito)hydroplatinate (10.5 mg, 0.025 mmol) were taken up in tetrahydrofuran (3.8 ml) and water (0.38 ml). The material was stirred and heated to reflux (oil bath) for 1 hour. The mixture was cooled to ambient and the volatiles were stripped (rotary evaporator). The crude remainder was purified by preparative thin layer chromatography (2 plates, eluting first with 7% methanol in methylene chloride and then re-developing again with 7% methanol in methylene chloride). The product band was collected, providing the desired 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-(5-chloro-pyridin-2-ylamino)-1H-pyrazole-4-carboxylic acid amide as an off-white powder (70 mg). LC/MS calc'd for C28H25ClFN7O3 (m/e) 561.99, obs'd 562 (M+H, ES+).

reactant | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-(5-chloro-pyridin-2-ylamino)-1H-pyrazole-4-carbonitrile | 0.204 mmol, 111 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC1=NC=C(C=C1)Cl)CO | C28H23ClFN7O2
reactant | tetrahydrofuran | 3.8 ml | O1CCCC1 | C4H8O
solvent | water | 0.38 ml | O | H2O
product | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-(5-chloro-pyridin-2-ylamino)-1H-pyrazole-4-carboxylic acid amide | 70 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C(=O)N)NC1=NC=C(C=C1)Cl)CO | C28H25ClFN7O3
